US07705053B2
Production of 3-[(E)-2-(4-chlorophenyl)-vinyl]-N-cyclopropyl-4-methoxy-benzamide (Compound 2-2-11)
The captioned compound was synthesized from 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid and cyclopropylamine in accordance with the same procedure as in the manufacturing method described in step C of Example 1-2-3.

reactant | 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)O)C=CC1OC | C16H13ClO3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 3-[(E)-2-(4-chlorophenyl)-vinyl]-N-cyclopropyl-4-methoxy-benzamide | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)NC2CC2)C=CC1OC | C19H18ClNO2
